US07115611B2
D] [2-(3-Methoxy-propyl)-4-nitro-phenoxy-acetic acid ethyl ester
4.00 g (15.9 mmol) of the above prepared [2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester was dissolved in 5.0 ml of TFAA and added slowly and carefully via dropping funnel to a mixture of 5 ml of TFAA and 4 ml of conc. HNO3 (65%) kept at −10° C.; the reaction was then allowed to proceed for additional 30 Min. Careful quenching with ice, twofold extraction with AcOEt, washing with NaHCO3 and brine, drying over magnesium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2, hexane/AcOEt=75/25) to deliver finally 3.00 g of the title compound as light brown oil, contaminated according to NMR with roughly 35% of the ortho-isomer which was separated after the next step.

reactant | [2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)CCCOC)=O | C14H20O4
reactant | HNO3 | 4 ml | [N+](=O)(O)[O-] | HNO3
solvent | TFAA | 5.0 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | TFAA | 5 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
product | 2-(3-Methoxy-propyl)-4-nitro-phenoxy-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)[N+](=O)[O-])CCCOC)=O | C14H19NO6
